US05382682
2-(4-t-butylphenoxy)-5-nitrobenzanilide [R =Ph; R1 =4-t-butylphenoxy; R2 =H]
To 0.18 g (6 mmole) of 80% sodium hydride in 7.5 ml of dry dimethylformamide was slowly added 0.9 g (6 mmole) of 4-t-butylphenol in 2.5 ml of dimethylformamide. After cessation of hydrogen evolution, 1.3 g (5 mmole) of solid 2-fluoro-5-nitrobenzanilide was added and the deep red solution was stirred at room temperature for 5 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with IN hydrochloric acid, saturated aqueous sodium bicarbonate solution, dried with magnesium sulphate and the solvent removed to yield the crude product. Recrystallisation from methylene chloride and hexare yielded 0.92 g product (47%) m.p. 138°-140° C.

reactant | sodium hydride | 6 mmole, 0.18 g | [H-].[Na+]
reactant | 4-t-butylphenol | 6 mmole, 0.9 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | hydrogen | [H][H] | H2
reactant | 2-fluoro-5-nitrobenzanilide | FC1=C(C(=O)NC2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H9FN2O3
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-t-butylphenoxy)-5-nitrobenzanilide | 0.92 g, 47% | C(C)(C)(C)C1=CC=C(OC2=C(C(=O)NC3=CC=CC=C3)C=C(C=C2)[N+](=O)[O-])C=C1 | C23H22N2O4
